US07323472B2
4-Amino-6-(2-fluoro-phenyl)-2-methylsulfanyl-pyrimidine-5-carbaldehyde
Prepared as described above in Example 11 starting from 4-amino-6-chloro-2-methylsulfanyl-pyrimidine-5-carbaldehyde and 2-fluorophenylboronic acid to give the title compound 4-amino-6-(2-fluoro-phenyl)-2-methylsulfanyl-pyrimidine-5-carbaldehyde. 1H-NMR: δ 2.59 (s, 3H), 5.78 (br s, 1H), 7.11-7.32 (m, 2H), 7.42-7.58 (m, 2H), 8.65 (br s, 1H), 9.71 (s, 1H). LC MS (m/e)=264 (MH+).

reactant | 4-amino-6-chloro-2-methylsulfanyl-pyrimidine-5-carbaldehyde | NC1=NC(=NC(=C1C=O)Cl)SC | C6H6ClN3OS
reactant | 2-fluorophenylboronic acid | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
product | 4-amino-6-(2-fluoro-phenyl)-2-methylsulfanyl-pyrimidine-5-carbaldehyde | NC1=NC(=NC(=C1C=O)C1=C(C=CC=C1)F)SC | C12H10FN3OS
